US04486425
Pivaloyloxymethyl 7-(4-chloro-2-hydroxyimino-3-oxobutyrylamino)-3-methoxymethyl-3-cephem-4-carboxylate
2.57 g of pivaloyloxymethyl 7-(4-chloro-3-oxobutyrylamino)-3-methoxymethyl-3-cephem-4-carboxylate were dissolved in 25 ml of acetic acid, and then 409 mg of sodium nitrite were added, little by little, at room temperature to the solution, after which the mixture was stirred for 30 minutes. The mixture was then diluted with 200 ml of ethyl acetate, washed three times with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulphate and then concentrated by evaporation under reduced pressure. The residue was twice subjected to azeotropic distillation using toluene and the resulting residue was dried, giving 2.7 g of the title compound as a foamy solid.

reactant | pivaloyloxymethyl 7-(4-chloro-3-oxobutyrylamino)-3-methoxymethyl-3-cephem-4-carboxylate | 2.57 g | ClCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O)=O | C19H25ClN2O8S
reactant | sodium nitrite | 409 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl 7-(4-chloro-2-hydroxyimino-3-oxobutyrylamino)-3-methoxymethyl-3-cephem-4-carboxylate | 2.7 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NO)=O | C19H24ClN3O9S
